US08067408B2
1,1-Dimethylethyl 4-[(3′-{[({4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate
To a solution of 4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (0.072 g, 0.16 mmol) in DMF (1 mL) was added 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperazinecarboxylate (0.061 g, 0.160 mmol), HBTU (0.100 g, 0.192 mmol), and TEA (0.045 mL), 0.320 mmol). This mixture was stirred at room temperature for 3 h. The reaction mixture was purified using a Gilson HPLC (with 0.1% TFA) to afford the title compound. LC-MS m/z 815 (M+H)+.

reactant | 4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 0.16 mmol, 0.072 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=C(C(=O)O)C=C2)CC | C24H29N5O4
reactant | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.160 mmol, 0.061 g | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C23H31N3O2
reactant | HBTU | 0.192 mmol, 0.100 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 4-[(3′-{[({4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=C(C=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)CC | C47H58N8O5
